US04130568
Absolute ethanol was saturated with gaseous hydrogen chloride at 0°. To this solution, 5.0g. (0.214 mole) of 2-hydroxy-9-methoxy-2,3-dihydro-7H-furo[3,2-g][1]benzopyran-7-one was added, and the reaction was allowed to proceed at 25° for 2.0 hours. The solvent was evaporated, and the residue was passed through a column consisting of 150 g. silica (upper layer) and 50 g. of neutral alumina (lower layer) using benzene/ethyl acetate, 4:1. Fractions containing the product were combined and evaporated to afford pure 2-ethoxy-9-methoxy-2,3-dihydro-7H-furo[3,2-g][1]benzopyran-7-one as a white solid. Recrystallization from ethanol yielded an analytical sample, mp 119°-120°.

reactant | hydrogen chloride | Cl | ClH
reactant | 2-hydroxy-9-methoxy-2,3-dihydro-7H-furo[3,2-g][1]benzopyran-7-one | 0.214 mole | OC1CC=2C(=C(C3=C(C=CC(O3)=O)C2)OC)O1 | C12H10O5
reactant | ethanol | C(C)O | C2H6O
product | 2-ethoxy-9-methoxy-2,3-dihydro-7H-furo[3,2-g][1]benzopyran-7-one | C(C)OC1CC=2C(=C(C3=C(C=CC(O3)=O)C2)OC)O1 | C14H14O5
